US07569600B2
To a solution of 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methylcyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (229 mg, 0.50 mmol) in dry MeOH (5 mL) was added 10% palladium on charcoal (53 mg), nitrogen was bubbled through solution for 10 min, then it was displaced by hydrogen, and the mixture was stirred at room temperature for 24 h. The mixture was filtered through celite washing with MeOH, and filtrate was concentrated under reduced pressure to give 199 mg of crude 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methylcyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester, which was used in the following step without purification.

reactant | 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methylcyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.50 mmol, 229 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)Br | C20H28BrNO4S
solvent | MeOH | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 53 mg | [Pd] | Pd
product | 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methylcyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 199 mg | COC(=O)C=1SC=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O | C20H29NO4S
